US06784192B2
2-[1-[(2-Methoxy-3-pyridyl)methyl]-2-piperidyl]acetaldehyde
A solution of 4.2 g of pyridine-sulfurtrioxide complex dissolved in dimethyl sulfoxide (DMSO) was added dropwise into a solution of 3 g of 2-[1-[(2-methoxy-3-pyridyl)methyl]-2-piperidyl]-1-ethanol and 7.3 ml of triethylamine dissolved in 15 ml of DMSO, while keeping the bulk temperature at 20° C. or less. After completing the dropwise addition, the mixture was stirred at room temperature for one hour. An aqueous sodium bicarbonate was added thereto, and the mixture was extracted with ethyl acetate. After drying over sodium sulfate, the solvent was evaporated. The residue was purified by silica gel chromatography (methanol), to give 2.5 g of a red brown oil.

reactant | 2-[1-[(2-methoxy-3-pyridyl)methyl]-2-piperidyl]-1-ethanol | 3 g | COC1=NC=CC=C1CN1C(CCCC1)CCO | C14H22N2O2
reactant | triethylamine | 7.3 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 2-[1-[(2-Methoxy-3-pyridyl)methyl]-2-piperidyl]acetaldehyde | 2.5 g | COC1=NC=CC=C1CN1C(CCCC1)CC=O | C14H20N2O2
